US06638929B2
A mixture of 4-chloro-6-nitro[1]benzothieno[3,2-b]pyridine-3-carbonitrile (0.27 g, 0.9 mmol), 3-bromoaniline (3.16 g, 18.4 mmol), and pyridine hydrochloride (0.06 g) in 15 mL of DMSO is stirred in the microwave (PROLABO unit) at 140° C., power range 0-10%, for one hour. The final reaction mixture is cooled, dissolved in 100 mL of chloroform, washed with 2N HCl (2×50 mL), then with saturated aqueous sodium bicarbonate (50 mL), and dried over sodium sulfate. The solvent is evaporated, and the desired compound purified by silica gel chromatography, eluting with 9:1 chloroform/methanol. After washing with diethyl ether and ethyl acetate, 4-(3-bromoanilino)-6-nitro[1]benzothieno[3,2-b]pyridine-3-carbonitrile (0.215 g, 55%) is obtained as a yellow solid, m. p. 288-290° C.

reactant | 4-chloro-6-nitro[1]benzothieno[3,2-b]pyridine-3-carbonitrile | 0.9 mmol, 0.27 g | ClC1=C2C(=NC=C1C#N)C1=C(S2)C(=CC=C1)[N+](=O)[O-] | C12H4ClN3O2S
reactant | 3-bromoaniline | 18.4 mmol, 3.16 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | pyridine hydrochloride | 0.06 g | Cl.N1=CC=CC=C1
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(3-bromoanilino)-6-nitro[1]benzothieno[3,2-b]pyridine-3-carbonitrile | 0.215 g, 55% | BrC=1C=C(NC2=C3C(=NC=C2C#N)C2=C(S3)C(=CC=C2)[N+](=O)[O-])C=CC1 | C18H9BrN4O2S
